US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[1-methyl-1-(2,2,2-trifluoro-ethylcarbamoyl)-ethoxy]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 27, racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (150 mg, 0.263 mmol) was reacted with 2,2,2-trifluoroethylamine hydrochloride (71 mg, 0.526 mmol), EDC.HCl (100 mg, 0.526 mmol), HOBt (71 mg, 0.526 mmol) and DIPEA (204 mg, 1.579 mmol) in anhydrous THF (3 mL) to give title compound as a white solid (50 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-hydroxycarbonyl-2-methyl-ethoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.263 mmol, 150 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OCC(C)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C29H25Cl2FN2O5
reactant | 2,2,2-trifluoroethylamine hydrochloride | 0.526 mmol, 71 mg | Cl.FC(CN)(F)F
reactant | EDC.HCl | 0.526 mmol, 100 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.526 mmol, 71 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.579 mmol, 204 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 3 mL | C1CCOC1 | C4H8O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-{5-chloro-2-[1-methyl-1-(2,2,2-trifluoro-ethylcarbamoyl)-ethoxy]-phenyl}-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 50 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C(NCC(F)(F)F)=O)C)=O)C1=C(C=CC(=C1)F)C)=O | C31H27Cl2F4N3O4
